US09427442B2
Intermediate S-3A: tert-Butyl 2-(4,4-difluorocyclohexylidene)acetate
A suspension of sodium hydride (0.298 g, 7.46 mmol) in THF (10 mL) was cooled to 0° C. tert-Butyl diethylphosphonoacetate (1.751 mL, 7.46 mmol) diluted with THF (10 mL) was added dropwise. The reaction mixture was removed from the cooling bath and stirred at room temperature for 30 min. The reaction mixture was then cooled to 0° C. and 4,4-difluorocyclohexanone (1 g, 7.46 mmol) diluted with THF (2 mL) was added. The reaction mixture was stirred at room temperature under nitrogen over night. The reaction was quenched with sat NH4Cl (50 mL). The aqueous phase was extracted with diethyl ether (3×25 mL). The combined organic layers were dried with Na2SO4, filtered and concentrated. The crude material was purified by flash chromatography (Teledyne ISCO CombiFlash Rf, 0% to 50% solvent A/B=hexanes/EtOAc, REDISEP® SiO2 40 g). Concentration of the appropriate fractions provided Intermediate S-3A (1.43 g, 83%). 1H NMR (400 MHz, chloroform-d) δ 5.68 (s, 1H), 3.02 (td, J=6.7, 0.9 Hz, 2H), 2.43-2.36 (m, 2H), 2.12-1.97 (m, 4H), 1.51 (s, 9H).

reactant | sodium hydride | 7.46 mmol, 0.298 g | [H-].[Na+]
reactant | tert-Butyl diethylphosphonoacetate | 7.46 mmol, 1.751 mL | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | 4,4-difluorocyclohexanone | 7.46 mmol, 1 g | FC1(CCC(CC1)=O)F | C6H8F2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(4,4-difluorocyclohexylidene)acetate | FC1(CCC(CC1)=CC(=O)OC(C)(C)C)F | C12H18F2O2
